US06340704B1
To a solution of 5-bromo-6-hydroxymethyl-1,3-benzodioxol (5.0 g) in ether (100 ml), butyl lithium (1.6M solution in hexane, 30 ml) was added dropwise at −78° C. After stirring at 0° C. for 1 hour, the solution was again cooled to −78° C.; a solution of 5-cyano-1,3-benzodioxol (3.52 g) in ether (50 ml) was added dropwise. After stirring at room temperature for 3 hours, water was added, followed by extraction with ethyl acetate. After being washed with brine, the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in toluene (100 ml); dimethyl fumarate (3.13 g) and trichloroacetic acid (0.83 g) were added. The mixture was refluxed for 1 hour and concentrated under reduced pressure. The residue obtained was dissolved in ethyl acetate and washed with a saturated aqueous solution of sodium hydrogen carbonate and brine. After being dried with magnesium sulfate, the mixture was concentrated under reduced pressure; the residue was purified by column chromatography (silica gel: 50 g, eluent: ethyl acetate−hexane=1:2) to yield a tetrahydro-1,4-epoxynaphthalene derivative (3.30 g) as a diastereomer mixture. This was dissolved in THF (15 ml) and methanol (15 ml); an aqueous solution (5 ml) of sodium hydroxide (1.24 g) was added, followed by overnight stirring. The reaction mixture was concentrated under reduced pressure and diluted with water, after which it was washed with ethyl acetate After concentrated hydrochloric acid was added to the water layer until the pH reached about 2, the product was extracted with ethyl acetate. The extract was washed with brine, after which it was dried over magnesium sulfate and concentrated under reduced pressure. The residue obtained was dissolved in ether (10 ml); concentrated hydrochloric acid (0.5 ml) was added; followed by stirring at room temperature for 3 hours. After the reaction mixture was concentrated under reduced pressure, water was added; the resulting precipitate was washed with methanol and ether to yield the title compound (0.38 g).

reactant | 5-bromo-6-hydroxymethyl-1,3-benzodioxol | 5.0 g | BrC1=CC2=C(OCO2)C=C1CO | C8H7BrO3
reactant | 5-cyano-1,3-benzodioxol | 3.52 g | C(#N)C1=CC2=C(OCO2)C=C1 | C8H5NO2
reactant | water | O | H2O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | butyl lithium | 1.6M, 30 ml | C(CCC)[Li]
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tetrahydro-1,4-epoxynaphthalene | 3.30 g | O1C2CCC1C1=CC=CC=C21 | C10H10O
